US09163003B2
2-(3-(4-(4-methoxybenzoyl)piperidin-1-yl)-2-oxopyrrolidin-1-yl)acetimidamide hydrochloride
To a solution of 2-(3-(4-(4-methoxybenzoyl)piperidin-1-yl)-2-oxopyrrolidin-1-yl)acetonitrile (690 mg, 2.0 mmol) in methanol (15 mL) was added sodium methoxide (0.046 mL, 0.20 mmol, 25%) and the mixture was stirred at ambient temperature for 2 h. Ammonium chloride (120 mg, 2.3 mmol) was added and the mixture was stirred at ambient temperature for 60 h. The reaction mixture was concentrated in vacuo, ethyl acetate in heptane (40%) was added, stirred at ambient temperature for 1 h then filtrated. the resulting solid was washed with ether to give a pale solid (800 mg, 100% yield). MS m/z 342.4 (M+1), retention time 0.79

reactant | 2-(3-(4-(4-methoxybenzoyl)piperidin-1-yl)-2-oxopyrrolidin-1-yl)acetonitrile | 2.0 mmol, 690 mg | COC1=CC=C(C(=O)C2CCN(CC2)C2C(N(CC2)CC#N)=O)C=C1 | C19H23N3O3
reactant | Ammonium chloride | 2.3 mmol, 120 mg | [Cl-].[NH4+]
solvent | methanol | 15 mL | CO | CH4O
catalyst | sodium methoxide | 0.20 mmol, 0.046 mL | C[O-].[Na+]
product | 2-(3-(4-(4-methoxybenzoyl)piperidin-1-yl)-2-oxopyrrolidin-1-yl)acetimidamide hydrochloride | 800 mg, 100% yield | Cl.COC1=CC=C(C(=O)C2CCN(CC2)C2C(N(CC2)CC(N)=N)=O)C=C1 | InChI=1S/C19H26N4O3.ClH/c1-26-15-4-2-13(3-5-15)18(24)14-6-9-22(10-7-14)16-8-11-23(19(16)25)12-17(20)21;/h2-5,14,16H,6-12H2,1H3,(H3,20,21);1H
